US05662829
500 mg of trans-4-(4-fluoro-cyclohex-3-enyl)cyclohexanecarbaldehyde, 310 mg of 2-propyl-propane-l,3-diol and 50 mg of p-toluenesulphonic acid in 8 ml of toluene were boiled at reflux for 1 hour in an apparatus which was gassed with nitrogen and which was fitted with a water separator. After cooling the reaction solution was partitioned in water/ether. The organic phase was washed twice with water. The aqueous phases were extracted twice with ether. The organic phases were combined, dried over magnesium sulphate, filtered and the filtrate was evaporated. The crude product was recrystallized several times from ethanol/1% ethyl acetate and gave 350 mg of trans-2-[trans-4-(4-fluoro-cyclohex-3-enyl)cyclohexyl]-5-propyl-[1,3]-dioxane, m.p. (C-N)<room temperature; S-N 104° C., c1.p. (N-I) 118.3° C.;

reactant | trans-4-(4-fluoro-cyclohex-3-enyl)cyclohexanecarbaldehyde | 500 mg | FC1=CCC(CC1)[C@@H]1CC[C@H](CC1)C=O | C13H19FO
reactant | 2-propyl-propane-l,3-diol | 310 mg | C(CC)C(CO)CO | C6H14O2
reactant | p-toluenesulphonic acid | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | trans-2-[trans-4-(4-fluoro-cyclohex-3-enyl)cyclohexyl]-5-propyl-[1,3]-dioxane | 350 mg | FC1=CCC(CC1)[C@@H]1CC[C@H](CC1)[C@@H]1OC[C@H](CO1)CCC | C19H31FO2
